US04529798
4-Cyano-1,2,3,4,5,6,7,8-octahydroacridine
A solution of lithium diisopropylamide [ex 1.55M BuLi/hexane (32.3 ml, 50 mM), diisopropylamine (3.5 ml, 25 mM), tetrahydrofuran (20 ml)] maintained at 0° C. under an argon atmosphere was treated with a solution of octahydroacridine (4.68 g, 25 mM) in the tetrahydrofuran (10 ml). After 0.5 hours a solution of N-t-butyl-N-cyclohexylcyanamide (4.6 g, 28 mM) in tetrahydrofuran (10 ml) was added and the mixture stirred overnight. The reaction was quenched with water, extracted with toluene and the organic phase washed with water, dried and evaporated. The residue, dissolved in ethyl acetate, was passed through a short silica column to yield the title compound. (3.8 g) mp. 88°-90° C.

reactant | lithium diisopropylamide | 1.55M, 32.3 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | octahydroacridine | 25 mM, 4.68 g | C1CCCC2NC3CC=CC=C3C=C12 | C13H17N
reactant | N-t-butyl-N-cyclohexylcyanamide | 28 mM, 4.6 g | C(C)(C)(C)N(C#N)C1CCCCC1 | C11H20N2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-Cyano-1,2,3,4,5,6,7,8-octahydroacridine | C(#N)C1CCCC2=CC=3CCCCC3N=C12 | C14H16N2
